US05972888
Synthesis of 2-(4-hydroxyphenyl)-3-[4-[2-(piperidin-1-yl)ethoxy]benzoyl]-6-hydroxybenzofuran hydrochloride
The title compound was prepared by dissolving the compound of Example 19, 2-(4-hydroxyphenyl)-3-[4-[2-(piperidin-1-yl)ethoxy]benzoyl]-6-hydroxybenzofuran, (3.1 g, 6.8 mmol) in 15 ml of methanol and treating with an excess of 3% hydrochloric acid in methanol. The volume was then reduced by boiling to 15 ml. Warm water (20 ml) was then added and the reaction mixture was further warmed to clarify. The reaction mixture was then filtered, followed by gradual cooling to 0° C., at which temperature the mixture was maintained for about one hour. The crystals, which had precipitated, were collected by filtration and washed with cold water. The pale yellow crystals were dried overnight, resulting in 2.82 g (84%) of the desired title product. mp 213-215° C.

reactant | 2-(4-hydroxyphenyl)-3-[4-[2-(piperidin-1-yl)ethoxy]benzoyl]-6-hydroxybenzofuran | 6.8 mmol, 3.1 g | OC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)C=CC(=C2)O | C28H27NO5
reactant | hydrochloric acid | Cl | ClH
reactant | water | 20 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 2-(4-hydroxyphenyl)-3-[4-[2-(piperidin-1-yl)ethoxy]benzoyl]-6-hydroxybenzofuran hydrochloride | 2.82 g, 84% | Cl.OC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)C=CC(=C2)O | InChI=1S/C28H27NO5.ClH/c30-21-8-4-20(5-9-21)28-26(24-13-10-22(31)18-25(24)34-28)27(32)19-6-11-23(12-7-19)33-17-16-29-14-2-1-3-15-29;/h4-13,18,30-31H,1-3,14-17H2;1H
